### PR TITLE
feat(Foundations/Data/Relation): strongly normalising elements of a type equipped with a relation

### PR DESCRIPTION
**Pull request by thomaskwaring**
This PR defines a predicate `SN r x` (better naming suggestions welcome) expressing that there is no infinite chain of `r`-related elements starting with `x`. This extends the definition of `Terminating` using `WellFounded` to individual elements, using `Acc`.

---

I'm very open to being told this is not a useful generalisation / abstraction, but the existing API for `Acc` does seem to make certain proofs easier. For instance, `sn_app_left` in `LambdaCalculus/LocallyNameless/Untyped/StrongNorm` falls out as reduction on `M` is a subrelation of reduction on `M.app N`.

### CODE REVIEW

File: Cslib/Foundations/Data/Relation.lean [hunk 1]
```diff
@@ -203,38 +203,90 @@ theorem Confluent.equivalence_join_reflTransGen (h : Confluent r) :
...
+  induction h with
+  | refl => exact hx
+  | tail _ h ih => exact ih.of_rel h
+
+lemma SN.transGen (hx : SN r x) : SN (TransGen r) x := by
+  suffices _ : (fun a b => TransGen r b a) = TransGen (Function.swap r) by
+    grind [Acc.transGen]
+  grind [transGen_swap]
+
+lemma SN.subrelation {r' : α → α → Prop} (hx : SN r x) (h : Subrelation r' r) : SN r' x := by
```
Comment (chenson2018) [inline Cslib/Foundations/Data/Relation.lean]: The consensus on Zulip seems to be that `≤` is the preferred spelling, see https://leanprover.zulipchat.com/#narrow/channel/144837-PR-reviews/topic/.2330526.20use.20Subrelation.20in.20Mathlib.2ELogic.2ERelation/with/546572621

File: Cslib/Foundations/Data/Relation.lean [hunk 2]
```diff
@@ -203,38 +203,90 @@ theorem Confluent.equivalence_join_reflTransGen (h : Confluent r) :
...
+@[grind →]
+lemma SN.of_rel_reflTransGen (hx : SN r x) (h : ReflTransGen r x y) : SN r y := by
+  induction h with
+  | refl => exact hx
+  | tail _ h ih => exact ih.of_rel h
+
+lemma SN.transGen (hx : SN r x) : SN (TransGen r) x := by
+  suffices _ : (fun a b => TransGen r b a) = TransGen (Function.swap r) by
+    grind [Acc.transGen]
+  grind [transGen_swap]
```
Comment (chenson2018) [inline Cslib/Foundations/Data/Relation.lean]: I dislike nesting `suffices` and `grind` for readability reasons. I think I might forgo `grind` altogether here and just write

```suggestion
  have eq : TransGen (Function.swap r) = (fun a b => TransGen r b a) := by
    ext
  simpa [eq] using Acc.transGen hx
```

File: Cslib/Foundations/Data/Relation.lean [hunk 3]
```diff
@@ -203,38 +203,90 @@ theorem Confluent.equivalence_join_reflTransGen (h : Confluent r) :
   apply equivalence_join
   grind
 
+/-- An element `x` is `SN` (for strongly-normalising) for a relation `r` if it is accesible under
+the inverse of `r`. -/
+abbrev SN (r : α → α → Prop) (x : α) := Acc (fun a b => r b a) x
```
Comment (chenson2018) [inline Cslib/Foundations/Data/Relation.lean]: I think for consistency with `Terminating` I'd write 

```suggestion
abbrev SN (r : α → α → Prop) := Acc (fun a b => r b a)
```

Do you have an opinion about us writing `fun a b => r b a` versus using `Function.swap`? It seems a bit painful either way.

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/StrongNorm.lean [hunk 4]
```diff
@@ -24,59 +24,52 @@ namespace LambdaCalculus.LocallyNameless.Untyped.Term
...
 
 /-- The left side of a strongly normalizing application is strongly normalizing. -/
-lemma sn_app_left (M N : Term Var) (lc_N : Term.LC N) (sn_MN : SN (M.app N)) :
-    SN M := by
-  generalize Heq : M.app N = P
-  rw [Heq] at sn_MN
-  induction sn_MN generalizing M N with grind
+lemma sn_app_left (M N : Term Var) (lc_N : Term.LC N) (sn_MN : SN FullBeta (M.app N)) :
+    SN FullBeta M := by
+  refine sn_MN.onFun_of_image (f := fun (M : Term Var) => M.app N) |>.subrelation ?_
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/StrongNorm.lean]:
```suggestion
  apply sn_MN.onFun_of_image (f := (·.app N)) |>.subrelation
```

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/StrongNorm.lean [hunk 5]
```diff
@@ -24,59 +24,52 @@ namespace LambdaCalculus.LocallyNameless.Untyped.Term
...
 
 /-- The right side of a strongly normalizing application is strongly normalizing. -/
-lemma sn_app_right (M N : Term Var) (lc_N : Term.LC M) (sn_MN : SN (M.app N)) :
-    SN N := by
-  generalize Heq : M.app N = P
-  rw [Heq] at sn_MN
-  induction sn_MN generalizing M N with grind
+lemma sn_app_right (M N : Term Var) (lc_M : Term.LC M) (sn_MN : SN FullBeta (M.app N)) :
+    SN FullBeta N := by
+  refine sn_MN.onFun_of_image (f := fun (N : Term Var) => M.app N) |>.subrelation ?_
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/StrongNorm.lean]:
```suggestion
  apply sn_MN.onFun_of_image (f := (M.app ·)) |>.subrelation
```

**Review by chenson2018 — CHANGES_REQUESTED** [review]
I think this makes sense and is consistent with how we defined `Terminating`. I had in mind something pretty similar and hadn't found the time, so thanks!

Just a few mostly style reviews:

File: Cslib/Foundations/Data/Relation.lean (hunk 2 above)
Comment (thomaskwaring) [reply Cslib/Foundations/Data/Relation.lean]: yep that's much nicer for sure

File: Cslib/Foundations/Data/Relation.lean (hunk 3 above)
Comment (thomaskwaring) [reply Cslib/Foundations/Data/Relation.lean]: i agree, no particular opinion i went with what you had for terminating (`flip` is also an option)

File: Cslib/Foundations/Data/Relation.lean (hunk 1 above)
Comment (thomaskwaring) [reply Cslib/Foundations/Data/Relation.lean]: ok thanks

**Review by chenson2018 — APPROVED** [review]
Looks good, thanks for doing this!

File: Cslib/Foundations/Data/Relation.lean (hunk 3 above)
Comment (chenson2018) [reply Cslib/Foundations/Data/Relation.lean]: Yeah, let's leave this for now. It is somewhat dissatisfying that we do all this work just to change the direction that the relation goes...
